US04529736
A 61.13 g portion of m-anisidine and 55.1 g of N-methylmaleimide were reacted as described in Example 6, giving 33.07 g of 2-(m-methoxyphenyl)-N-methylmaleimide.

reactant | m-anisidine | COC1=CC(=CC=C1)N | C7H9NO
reactant | N-methylmaleimide | 55.1 g | CN1C(C=CC1=O)=O | C5H5NO2
product | 2-(m-methoxyphenyl)-N-methylmaleimide | 33.07 g | COC=1C=C(C=CC1)C=1C(=O)N(C(C1)=O)C | C12H11NO3
